US04080330
A solution of 4.0 g of N-chloracetyl-3-phenylindoline and 1.1 g of sodium azide in 70 ml of 80% aqueous ethanol was refluxed for one hour. After cooling, the solution was diluted with 100 ml of water and extracted with methylene chloride. Evaporation of the solvent gave 2.8 g of the desired N-azidoacetyl-3-phenylindoline having a melting point of 72°-3° C.

reactant | N-chloracetyl-3-phenylindoline | 4.0 g | ClCC(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H14ClNO
reactant | sodium azide | 1.1 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | N-azidoacetyl-3-phenylindoline | 2.8 g | N(=[N+]=[N-])CC(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H14N4O
